US07939533B2
(RS)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-methanesulfinylmethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide
To a solution of 0.25 g (0.39 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-methylsulfanylmethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide in 10 ml dichloromethane were added 95 mg (70%, 0.39 mmol) 3-chloroperbenzoic acid at 0° C. After completed addition, the reaction mixture was allowed to warm to room temperature and stirred over night. An aqueous solution of sodium hydrogensulfite was added and the mixture was stirred for 10 min. Basification with 1 N aqueous sodium hydroxide solution was followed by extraction with three portions of dichloromethane. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 0.23 g (89%) of the title compound as a white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-methylsulfanylmethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 0.39 mmol, 0.25 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)CSC)C1=C(C=C(C=C1)F)C)(C)C)(F)F | C32H34F7N3OS
reactant | 3-chloroperbenzoic acid | 0.39 mmol, 95 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (RS)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-methanesulfinylmethyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 0.23 g, 89% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)CS(=O)C)C1=C(C=C(C=C1)F)C)(C)C)(F)F | C32H34F7N3O2S
